US07414063B2
7-Bromo-isoquinoline (22.7 g, 109 mmol) is added to a stirred chlorosulfonic acid (230 mL) solution and the resultant mixture is heated at 150° C. under nitrogen for 22 hours. The solution is cooled to ambient temperature and poured very slowly into ice (2 Kg) cooled in a −10° C. bath. While cold, the mixture is adjusted to pH ˜10 with powered Na2CO3 (ca. 200 g) and 5N NaOH. The mixture is extracted with dichloromethane (1 L×2). The combined organic layers are dried over Na2SO4, filtered and concentrated in vacuo to give 16.3 g (crude yield 49%) of 7-bromo-isoquinoline-5-sulfonyl chloride as a tan solid.

reactant | 7-Bromo-isoquinoline | 109 mmol, 22.7 g | BrC1=CC=C2C=CN=CC2=C1 | C9H6BrN
reactant | Na2CO3 | ca. 200 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaOH | 5N | [OH-].[Na+]
reactant | chlorosulfonic acid | 230 mL | ClS(=O)(=O)O | ClHO3S
product | 7-bromo-isoquinoline-5-sulfonyl chloride | 16.3 g | BrC=1C=C(C=2C=CN=CC2C1)S(=O)(=O)Cl | C9H5BrClNO2S
